* test6 automatic PMOS-load bias sweep at fixed VBN
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_fd_ota_core.spice
.param VDD=1.8 VCM=0.9 VBN=0.65
VDD_SRC VDD18 0 {VDD}
VBP_SRC VBP 0 0.8
VBN_SRC VBN 0 {VBN}
VINP INP 0 {VCM}
VINN INN 0 {VCM}
XOTA INP INN VBP VBN OUTP OUTN VCM_SENSE VDD18 0 eeg_fd_ota_core
CLOADP OUTP 0 1p
CLOADN OUTN 0 1p
.control
set noaskquit
dc VBP_SRC 0.20 1.20 0.005
let idd=-i(VDD_SRC)
wrdata ../results/ota_vbp_sweep.csv v(VBP) v(VCM_SENSE) idd
quit
.endc
.end
